US06900313B2
(1-Hydroxymethyl-2-methyl-propyl)-trimethylammonium-hexafluorophosphate
58.5 g (0.5 mol) valinol are dissolved in 115 g (2.5 mol) formic acid and cooled to 0° C. 1.2 mol formaldehyde are added to this mixture and heated until carbon dioxide formation is complete on the boiling water bath. The solution is acidified with hydrochloric acid and the solvents removed by vacuum. The residue is dissolved in 50 ml water, made basic with 25% sodium hydroxide solution and extracted with diethyl ether. The extracts are dried via sodium sulfate and the solvent removed under vacuum. Distillation (33 mbar/80° C.) yields 53.7 g (82%) N,N-dimethylvalinol as a colourless oil. 50 g (0.38 mol) N,N-dimethylvalinol are dissolved in 100 ml dichloromethane, mixed with 56.8 g (0.4 mol) methyl iodide and stirred at room temperature for 12 h. The solvent is removed under vacuum, the residue is dissolved in 200 ml water and mixed with ice cooling with 0.4 mol hexafluorophosphoric acid in an aqueous solution. The reaction mixture is washed repeatedly with water and the solvent removed under vacuum. The yield of (1-hydroxymethyl-2-methyl-propyl)-trimethylammonium-hexafluorophosphate is 107 g. The enantiomer excess in the product is >95%.

reactant | N,N-dimethylvalinol | 0.38 mol, 50 g | CN([C@@H](C(C)C)CO)C | C7H17NO
reactant | methyl iodide | 0.4 mol, 56.8 g | CI | CH3I
reactant | hexafluorophosphoric acid | 0.4 mol | F[P-](F)(F)(F)(F)F.[H+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (1-Hydroxymethyl-2-methyl-propyl)-trimethylammonium hexafluorophosphate | OCC(C(C)C)[N+](C)(C)C.F[P-](F)(F)(F)(F)F | InChI=1S/C8H20NO.F6P/c1-7(2)8(6-10)9(3,4)5;1-7(2,3,4,5)6/h7-8,10H,6H2,1-5H3;/q+1;-1
